US06939870B2
8-Bromo-6-chloro-4(3H) quinazolinone was prepared from 2-amino-3-bromo-5-chlorobenzoic acid (10 g, 40 mmol). The acid was heated in excess formamide (50 mL) at reflux overnight. The mixture was cooled and quenched with water. The solid that formed was washed with acetonitrile, 6.7 g crude (65%); MS: 260.8 (M+H)+

reactant | 2-amino-3-bromo-5-chlorobenzoic acid | 40 mmol, 10 g | NC1=C(C(=O)O)C=C(C=C1Br)Cl | C7H5BrClNO2
reactant | formamide | 50 mL | C(=O)N | CH3NO
product | 8-Bromo-6-chloro-4(3H) quinazolinone | BrC=1C=C(C=C2C(NC=NC12)=O)Cl | C8H4BrClN2O
